US08541588B2
2-(2-aminopyridin-4-yl)-4-chlorophenol
5-chloro-2-hydroxyphenylboronic acid (200 mg, 1 mmol), 2-amino-4-bromopyridine (220 mg, 1.3 mmol), sodium carbonate (490 mg, 4.6 mmol), and tetrakis(triphenylphosphine)palladium (0) (130 mg, 0.12 mmol) were all placed in a round bottom flask and 1,4-dioxane (3 mL) and water (1 mL) were added. The mixture was heated to 85° C. for 2 hours. The mixture was cooled to room temperature and diluted with ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate (1×). The combined extracts were dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography (12 g silica gel column, 0-100% v/v ethyl acetate/hexanes gradient elution) to afford the title compound (242 mg).

reactant | 5-chloro-2-hydroxyphenylboronic acid | 1 mmol, 200 mg | ClC=1C=CC(=C(C1)B(O)O)O | C6H6BClO3
reactant | 2-amino-4-bromopyridine | 1.3 mmol, 220 mg | NC1=NC=CC(=C1)Br | C5H5BrN2
reactant | sodium carbonate | 4.6 mmol, 490 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 mmol, 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | 2-(2-aminopyridin-4-yl)-4-chlorophenol | 242 mg | NC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)O | C11H9ClN2O
